US07547691B2
(A). Preparation of 7-methoxybenzo[b]thiophene
To a solution of 7-bromobenzo[b]thiophene (10.0 g, 46.9 mmol) in dry DMF (234 mL) is added copper iodide (8.90 g, 46.9 mmol), followed by the addition of sodium methoxide (30% in MeOH, 176 mL, 938 mmol) at room temperature under nitrogen atmosphere. The mixture is heated at 100° C. for 2 hours and cooled to room temperature. Water (400 mL) is added and the mixture is extracted with diethyl ether (4×200 mL). Organic layers are washed with cooled water (3×75 mL), saturated aqueous sodium chloride (100 mL), dried (MgSO4), and concentrated to give the title compound as yellow oil (7.58 g, 98% yield).

reactant | 7-bromobenzo[b]thiophene | 46.9 mmol, 10.0 g | BrC1=CC=CC2=C1SC=C2 | C8H5BrS
reactant | sodium methoxide | 938 mmol, 176 mL | C[O-].[Na+]
reactant | Water | 400 mL | O | H2O
solvent | DMF | 234 mL | CN(C)C=O | C3H7NO
catalyst | copper iodide | 46.9 mmol, 8.90 g | [Cu](I)I
product | 7-methoxybenzo[b]thiophene | 7.58 g, 98% yield | COC1=CC=CC2=C1SC=C2 | C9H8OS
